US08623862B2
Step 1: Benzyl 4-(3,3,3-trifluoro-2-hydroxypropyl)piperazine-1-carboxylate.
0.47 ml of 1,1,1-trifluoro-2,3-epoxypropane is added to a solution of 1 g of benzyl piperazine-1-carboxylate in 100 ml of N-methylpyrrolidine and it is heated at 80° C. for 12 hours. 0.05 ml of 1,1,1-trifluoro-2,3-epoxypropane is added and it is heated at 80° C. for 48 hours, The reaction mixture is extracted with DCM, the organic phase is washed with a 4% solution of LiCl in water, it is dried over MgSO4 and the solvent is evaporated under vacuum. The residue is purified by preparative HPLC and 1.7 g of the expected compound is obtained.

reactant | 1,1,1-trifluoro-2,3-epoxypropane | 0.47 ml | FC(C1CO1)(F)F | C3H3F3O
reactant | benzyl piperazine-1-carboxylate | 1 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | 1,1,1-trifluoro-2,3-epoxypropane | 0.05 ml | FC(C1CO1)(F)F | C3H3F3O
solvent | N-methylpyrrolidine | 100 ml | CN1CCCC1 | C5H11N
product | Benzyl 4-(3,3,3-trifluoro-2-hydroxypropyl)piperazine-1-carboxylate | 1.7 g | FC(C(CN1CCN(CC1)C(=O)OCC1=CC=CC=C1)O)(F)F | C15H19F3N2O3
